US04713387
In 11 ml of methylene chloride was dissolved 2.11 g of (E)-3-[4-(imidazol-1-ylmethyl)phenyl]allyl alcohol, and 3.57 ml of thionyl chloride was dropped into the resulting solution with ice-cooling, after which the resulting mixture was subjected to reaction under reflux for one hour. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure to obtain oily (E)-3-[4-(imidazol-1-ylmethyl)phenyl]allyl chloride hydrochloride. This was dissolved in 8 ml of methylene chloride.

reactant | (E)-3-[4-(imidazol-1-ylmethyl)phenyl]allyl alcohol | 2.11 g | N1(C=NC=C1)CC1=CC=C(C=C1)/C=C/CO | C13H14N2O
reactant | thionyl chloride | 3.57 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 11 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-[4-(imidazol-1-ylmethyl)phenyl]allyl chloride hydrochloride | Cl.N1(C=NC=C1)CC1=CC=C(C=C1)/C=C/CCl | InChI=1S/C13H13ClN2.ClH/c14-7-1-2-12-3-5-13(6-4-12)10-16-9-8-15-11-16;/h1-6,8-9,11H,7,10H2;1H/b2-1+;
